US04472305
Condensation of BocProOSu (6.00 g.) and HDTrpOH (4.08 g.) by the salt coupling method gave BocPro-DTrpOH in 70% yield. Condensation of BocPro-DTrpOH (2.93 g.) and HGlyOBz p-toluenesulfonate salt (2.47 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocPro-DTrp-GlyOBz in 68% yield. Debenzylation of BocPro-DTrp-GlyOBz by hydrogenation with palladium catalyst gave BocPro-DTrp-GlyOH in 95% yield.

reactant | BocProOSu | 6.00 g | N1([C@H](C(=O)ON2C(=O)CCC2=O)CCC1)C(=O)OC(C)(C)C | C14H20N2O6
reactant | HDTrpOH | 4.08 g | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
product | BocPro-DTrpOH | 70% yield | N1([C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)O)CCC1)C(=O)OC(C)(C)C | C21H27N3O5
